US07906540B2
step 3—Anhydrous collidine (100 mL) was added to a dry flask containing 3-bromo-5-methoxy-benzonitrile (10.4 g, 49 mmol) and LiI (19.6 g, 3 equiv). The solution was heated under nitrogen to 150° C. overnight, cooled to RT, and poured into an ice cold 1 M HCl solution. The mixture was extracted with a 1:1 EtOAc/hexanes solution, washed with water, and dried (MgSO4). Concentration in vacuo afforded 8.7 g (89%) of 3-bromo-5-hydroxy-benzonitrile.

reactant | 3-bromo-5-methoxy-benzonitrile | 49 mmol, 10.4 g | BrC=1C=C(C#N)C=C(C1)OC | C8H6BrNO
reactant | LiI | 19.6 g, 3 equiv | [Li+].[I-]
solvent | collidine | 100 mL | N1=C(C=C(C=C1C)C)C | C8H11N
product | 3-bromo-5-hydroxy-benzonitrile | 8.7 g, 89% | BrC=1C=C(C#N)C=C(C1)O | C7H4BrNO
